US06455550B1
A solution of diisopropylamine (1.0 mL, 7.7 mmol) in 20 mL of dry THF was cooled to −78° C. in a dry ice-acetone bath under argon. n-Butyl lithium in hexanes (2.5 M, 3.6 mL, 7.7 mmol) was added all at once and the mixture was stirred for 0.5 hour and transferred to a precooled (−30° C.) solution of 1.0 g (7.0 mmol) of ethyl cyclopentane carboxylate in 10 mL of THF. After a further 45 min, benzyl bromide (0.92 mL, 7.7 mmol) was added and the mixture was allowed to warm to room temperature over night. The resulting mixture was concentrated, and the residue was taken up in 70 mL of ether, washed with water, 1 N HCl, water, saturated brine and was dried (MgSO4). The residue obtained after filtration and evaporation was purified by flash chromatography over 100 g of silica gel, eluting with 3% ethyl acetate-hexane to give 1-benzylcyclopentane carboxylic acid ethyl ester (0.80 g, 45%) as a colorless oil.

reactant | diisopropylamine | 7.7 mmol, 1.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyl lithium | C(CCC)[Li]
reactant | ethyl cyclopentane carboxylate | 7.0 mmol, 1.0 g | C1(CCCC1)C(=O)OCC | C8H14O2
reactant | benzyl bromide | 7.7 mmol, 0.92 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-benzylcyclopentane carboxylic acid ethyl ester | 0.80 g, 45% | C(C)OC(=O)C1(CCCC1)CC1=CC=CC=C1 | C15H20O2
